US04758574
2-(3,5-Dichlorophenyl)imidazo[4,5-c]pyridine hydrochloride
When 3,5-dichlorobenzoic acid and 3,4-diaminopyridine were reacted according to the procedure in Example 1, the title compound (base) was obtained. Upon converting to the hydrochloride salt and crystallization from ethanol/dimethylformamide/water, a 61% yield of pure 2-(3,5-dichlorophenyl)imidazo[4,5-c]pyridine hydrochloride was obtained as cream-colored needles, m.p. >320° C.

reactant | 3,5-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
product | 2-(3,5-Dichlorophenyl)imidazo[4,5-c]pyridine hydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)C=1NC2=C(C=NC=C2)N1 | InChI=1S/C12H7Cl2N3.ClH/c13-8-3-7(4-9(14)5-8)12-16-10-1-2-15-6-11(10)17-12;/h1-6H,(H,16,17);1H
